US05514691
5-Bromo-2-methoxy-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide was prepared from 5-amino-4-bromo-3-methylisoxazole and 5-bromo-2-methoxybenzenesulfonyl chloride according to the procedures described in Example 5. The crude product was purified by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 92°-195° C., yield 61%.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 5-bromo-2-methoxybenzenesulfonyl chloride | BrC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6BrClO3S
product | 5-Bromo-2-methoxy-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | yield 61% | BrC=1C=CC(=C(C1)S(=O)(=O)NC1=C(C(=NO1)C)Br)OC | C11H10Br2N2O4S
